US05338756
STEP A: 2-butyl-3H-imidazo- (4,5-d) pyrimidine
Using the procedure of Example 1, 5 g of 4,5-diaminopyrimidine and 10 g of ethyl pentanimidoate hydrochloride [J.A.C.S., Vol. 64, p 1827 (1942)] using dimethylformamide as solvent were reacted to obtain 2.1 g of the desired product which after crystallization from ethyl acetate melted at 166° C. The product was crystallized from ethyl acetate to obtain 1.8 g of the expected product melting at 168° C. 200 mg of an analytical sample was obtained by an additional crystallization of 300 mg of the product from ethyl acetate melting at 168° C.

reactant | 4,5-diaminopyrimidine | 5 g | NC1=NC=NC=C1N | C4H6N4
reactant | ethyl pentanimidoate hydrochloride | 10 g | Cl.C(CCCC)(OCC)=N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-butyl-3H-imidazo- (4,5-d) pyrimidine | 2.1 g | C(CCC)C1=NC2=C(N=CN=C2)N1 | C9H12N4
